US07435837B2
Treatment of 2-bromo-5-fluorophenol (10.00 g, 0.052 mol) with potassium carbonate (29.30 g, 0.209 mol) and allyl bromide (7.60 g, 0.063 mol) generally according to the reaction procedure described for Intermediate 8 provided 12.1 g (99%) of 2-(allyloxy)-1-bromo-4-fluorobenzene as a colorless oil. Rf=0.37 (silica, ethyl acetate:hexanes 1:9); 1H NMR (DMSO-d6) δH 7.58 (dd, 1H); 7.05 (dd, 1H); 6.75 (dt, 1H); 6.02 (m, 1H); 5.43 (d, 1H); 5.27 (d, 1H); 4.65 (m, 2H).

reactant | 2-bromo-5-fluorophenol | 0.052 mol, 10.00 g | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
reactant | potassium carbonate | 0.209 mol, 29.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.063 mol, 7.60 g | C(C=C)Br | C3H5Br
product | 2-(allyloxy)-1-bromo-4-fluorobenzene | 12.1 g, 99% | C(C=C)OC1=C(C=CC(=C1)F)Br | C9H8BrFO
